US07253286B2
N-{4-[6-Cyano-7-(2-hydroxy-3-(pyrrolidin-1-yl)propoxy)quinolin-4-yloxy]-2-fluorophenyl}-N′-(4-fluorophenyl)urea
After adding tetrahydrofuran (1 ml) and pyrrolidine (0.1 ml) to N-[4-(6-cyano-7-oxiranylmethoxyquinolin-4-yloxy)-2-fluorophenyl]-N′-(4-fluorophenyl)urea (100 mg), the mixture was heated at 50° C. for 30 minutes. The reaction solution was purified by NH silica gel column chromatography (ethyl acetate-methanol system) to obtain the title compound (45 mg) as light yellow crystals.

reactant | pyrrolidine | 0.1 ml | N1CCCC1 | C4H9N
reactant | N-[4-(6-cyano-7-oxiranylmethoxyquinolin-4-yloxy)-2-fluorophenyl]-N′-(4-fluorophenyl)urea | 100 mg | C(#N)C=1C=C2C(=CC=NC2=CC1OCC1OC1)OC1=CC(=C(C=C1)NC(=O)NC1=CC=C(C=C1)F)F | C26H18F2N4O4
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | N-{4-[6-Cyano-7-(2-hydroxy-3-(pyrrolidin-1-yl)propoxy)quinolin-4-yloxy]-2-fluorophenyl}-N′-(4-fluorophenyl)urea | 45 mg | C(#N)C=1C=C2C(=CC=NC2=CC1OCC(CN1CCCC1)O)OC1=CC(=C(C=C1)NC(=O)NC1=CC=C(C=C1)F)F | C30H27F2N5O4
